US04358307
A mixture of 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionic acid (2.0 g; compound no 27, Example 9) and thionyl chloride (25 ml) was heated under reflux for a period of 2 hours. The excess thionyl chloride was removed by distillation under reduced pressure to give 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionyl chloride. A mixture of n-propanol (10 ml) and triethylamine (10 ml) was added and the mixture was stirred at room temperature for a period of 1 hour. The mixture was poured into water (200 ml) and the aqueous mixture was extracted with dichloromethane. The organic extract was washed several times with water and dried over anhydrous sodium sulfate. The solvent was removed by distillation under reduced pressure and the residue was chromatographed over alumina (eluent dichloromethane) to give n-propyl 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionate as an oil.

reactant | 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionic acid | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(OC(C(=O)O)C)C=C1 | C18H16ClN3O3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-{4-[N-methyl-N-(6-chloroquinoxalin-2-yl)amino]phenoxy}propionyl chloride | CN(C1=NC2=CC=C(C=C2N=C1)Cl)C1=CC=C(OC(C(=O)Cl)C)C=C1 | C18H15Cl2N3O2
